Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
latex / Bactrim
 
Attending: ___.
 
Chief Complaint:
Rash, fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M w h/o HTN p/w fever and rash.
Pt received the varicella vaccine 1 week prior, developed
cellulitis at the site, then was seen in the ED 1 week ago where
he received a dose of ceftriaxone and was prescribed a course of
cephalexin and Bactrim DS for a 7 day course. He took his last
dose of both medications today and by evening developed a 
rapidly
spreading red rash over his back which then spreading to the 
neck
and chest. He took Benadryl 50mg PO x1 5 hours prior with no
improvement of the rash. He reports associated weakness and
fatigue and was found to have a fever to 101.3 on arrival to the
ED. 

He reports feeling well prior to the varicella vaccine ___
which was his second, required by his job, as he had not
seroconverted. Within 24 hours of vaccine developed erythema on
anterior left arm near vax site which was painful. Was evaluated
at ___ and given a gluteal injection of unknown abx 
and
sent home on Keflex TID. The redness on his left arm worsened 
and
he presented to ___ on ___, was diagnosed with cellulitis,
given CTX x1 dose and discharged on Keflex and Bactrim x7 days.
He completed this course last evening ___, developed the rash
described above and presented to the ED. 

History Obtained From: records and patient 
 
In the ED, initial vitals:  
Today 00:56 101.3 129 139/83 19 100% RA 
 
Exam notable for:  
Exam: morbilliform erythematous, blanching eruption over entire
trunk, confluent in some areas over the back, extending onto
upper legs. Spares palms/soles. No sloughing or erythroderma. +
injection of conjunctivae bilaterally, + mild OP injection. No
ulcerations or bleeding mucous membranes. 

Labs notable for:  
FluAPCR: Negative 
FluBPCR: Negative

136  98  16  123   AGap=15 
3.7  23  1.3 

ALT: 25 AP: 66 Tbili: 0.4 Alb: 4.4 
AST: 23 

2.4  14.2  132 
     43.9 

N:65.0 L:15.2 M:16.5 E:2.9 Bas:0.0 ___: 0.4 Absneut: 1.58
Abslymp: 0.37 Absmono: 0.40 Abseos: 0.07 Absbaso: 0.00 

Imaging notable for: no imaging

Pt given:  
___ 02:22 IVF  NS  
___ 02:37 PO Acetaminophen 1000 mg 
___ 02:37 PO DiphenhydrAMINE 50 mg 
___ 03:11 IVF  NS 1000 mL   
___ 03:24 IV MethylPREDNISolone Sodium Succ 125 mg 

Vitals prior to transfer: 
Today 07:12 98.5 112 130/80 19 97% RA  
 
On the floor, he reports mild itching but is relatively
comfortable. He report dry mouth but no itchy throat or eyes,
tongue or lip swelling, headache, dizziness, vision changes, 
SOB,
cough, N/V, diarrhea, dysuria or hematuria. He did not have
chicken pox as a child. No significant travel history. No
exposures to new detergents or other products. Has latex allergy
but denies recent exposure. No new foods. 
 
REVIEW OF SYSTEMS:  
General: no weight loss, sweats.
Eyes: no vision changes.  
ENT: no odynophagia, dysphagia, neck stiffness.  
Cardiac: no chest pain, palpitations, orthopnea.  
Resp: no shortness of breath or cough.  
GI: no nausea, vomiting, diarrhea.  
GU: no dysuria, frequency, urgency.  
Neuro: no unilateral weakness, numbness, headache.  
MSK: no myalgia or arthralgia.  
Heme: no bleeding or easy bruising.  
Lymph: no swollen lymph nodes.  
Psych: no mood changes  
 
Past Medical History:
HTN
Anxiety
 
Social History:
___
Family History:
Significant CAD hx with MIs in multiple family members. 
 
Physical Exam:
ADMISSION PHYSICAL
================== 
___ ___ Temp: 98.1 PO BP: 153/85 HR: 114 RR: 20 O2
sat: 98% O2 delivery: Ra  
General: Alert, oriented, tired appearing  
HEENT: EOMI, PERRL, b/l chemosis without lid swelling; MMM,
scattered red macules on palate and buccal surfaces, no ulcers 
or
skin sloughing, no angioedema
Neck: supple, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Diffuse, fine maculopapular rash with surrouding erythema
and large patches of erythema without papules on face, scalp,
neck, trunk, with minor involvement of legs; no erythema or
induration on posterior upper arm within marked area  
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally.  

DISCHARGE PHYSICAL
==================
___ ___ Temp: 97.8 PO BP: 154/84 HR: 67 RR: 18 O2 sat: 97%
O2 delivery: Ra  
General: Alert, oriented, NAD  
HEENT: EOMI, PERRL, improving chemosis without lid swelling; 
MMM,
clear OP, no ulcers or skin sloughing, no angioedema
Neck: supple, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Improvement in diffuse, fine maculopapular rash now
becoming confluent  
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally. 
 
Pertinent Results:
ADMISSION LABS
==============
___ 12:48PM   GLUCOSE-154* UREA N-13 CREAT-1.2 SODIUM-139 
POTASSIUM-4.1 CHLORIDE-97 TOTAL CO2-20* ANION GAP-22*
___ 12:48PM   C3-156 C4-40
___ 12:48PM   WBC-2.5* RBC-6.06 HGB-15.3 HCT-49.0 MCV-81* 
MCH-25.2* MCHC-31.2* RDW-13.8 RDWSD-39.3
___ 12:48PM   NEUTS-77.8* LYMPHS-17.0* MONOS-4.0* EOS-0.0* 
BASOS-0.4 IM ___ AbsNeut-1.97 AbsLymp-0.43* AbsMono-0.10* 
AbsEos-0.00* AbsBaso-0.01
___ 12:48PM   PLT COUNT-146*
___ 03:25AM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 03:15AM URINE  HOURS-RANDOM
___ 03:15AM URINE  UHOLD-HOLD
___ 03:15AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:15AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 02:25AM   GLUCOSE-123* UREA N-16 CREAT-1.3* SODIUM-136 
POTASSIUM-3.7 CHLORIDE-98 TOTAL CO2-23 ANION GAP-15
___ 02:25AM   estGFR-Using this
___ 02:25AM   ALT(SGPT)-25 AST(SGOT)-23 ALK PHOS-66 TOT 
BILI-0.4
___ 02:25AM   ALBUMIN-4.4
___ 02:25AM   WBC-2.4* RBC-5.57 HGB-14.2 HCT-43.9 MCV-79* 
MCH-25.5* MCHC-32.3 RDW-13.4 RDWSD-38.3
___ 02:25AM   NEUTS-65.0 LYMPHS-15.2* MONOS-16.5* EOS-2.9 
BASOS-0.0 IM ___ AbsNeut-1.58* AbsLymp-0.37* AbsMono-0.40 
AbsEos-0.07 AbsBaso-0.00*
___ 02:25AM   PLT COUNT-132*

MICRO
=====
Blood Culture ___: Pending- No Growth to Date
Urine Culture ___: No Growth (Final)
Varicella IgG ___: Positive

IMAGING
=======
None

DISCHARGE LABS
==============
___ 04:56AM BLOOD WBC-3.6* RBC-5.19 Hgb-13.1* Hct-42.2 
MCV-81* MCH-25.2* MCHC-31.0* RDW-13.4 RDWSD-39.5 Plt ___
___ 04:56AM BLOOD Neuts-15* Bands-0 Lymphs-63* Monos-13 
Eos-4 Baso-1 Atyps-4* ___ Myelos-0 AbsNeut-0.54* 
AbsLymp-2.41 AbsMono-0.47 AbsEos-0.14 AbsBaso-0.04
___ 04:56AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 04:56AM BLOOD Glucose-102* UreaN-16 Creat-0.8 Na-143 
K-4.3 Cl-107 HCO___ AnGap-___ male with history of HTN presenting with fever, 
rash, malaise in the setting of an antibiotic course for 
cellulitis and found to have leukopenia and thrombocytopenia who 
was admitted for concern of DRESS vs SJS vs drug reaction.

ACUTE/ACTIVE PROBLEMS: 

#Rash
#thrombocytopenia
#Leukopenia
Bactrim (sulfa) induced drug eruption with agranulocytosis and 
thrombocytopenia most likely. Dermatology was consulted and 
advised that Bactrim was most of the likely offending agent and 
recommended symptomatic treatment with topical steroids. Given 
absence of neutrophils on day 3, patient was held for monitoring 
of ANC for upward trend. There was no evidence of infection and 
hematology/oncology was consulted for possible use of G-CSF but 
recommended holding off. The patient was discharged home with a 
plan to be monitored as an outpatient once he demonstrated an 
upward trend and his absolute neutrophil count. All antibiotics 
were discontinued and Bactrim was added to his allergy list. 

The patient's ANC on discharge (___) was 0.53 (0.03 on ___, 
0 on ___. 

___
The patient's serum creatinine was 1.3 on admission, likely drug 
induced. It normalized by discharge. HCTZ was held as it is a 
sulfa drug for concern of possible reaction. 

#Cellulitis
The patient's cellulitis developed after varicella vaccination 
on left posterior arm. He received 1 dose of an unknown 
antibiotic at ___, then received 1 dose of 
ceftriaxone (day one) in ___ ED and then was discharged from 
the ED last week with 7 days cephalexin and Bactrim DS with 
apparent resolution of erythema and pain. Of note, his erythema 
and induration was resolved based on a prior ED visit. The 
patient was appropriately treated for possible cellulitis 
although it is possible that the initial erythema following 
vaccination was a local reaction to the vaccine not cellulitis. 
Varicella titer was found to be positive this admission. 

CHRONIC/STABLE PROBLEMS: 

#HTN: normotensive on admission. His amlodipine was continued 
and his hydrochlorothiazide was held in the setting of ___. It 
was continued to be held after resolution of his ___ as it is a 
sulfa drug on discharge. 

#Anxiety
The patient was continued on his long term citalopram. 

TRANSITIONAL ISSUES: 

-Avoid Bactrim in the future. Other sulfa drugs with caution 
after discussion with providers. 
-recheck CBC with differential on ___, follow up ___ (on 
discharge ___ was 0.53 from 0.03)
-Held hydrochlorothiazide due to normotension, restart at next 
apt if needed
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Escitalopram Oxalate 20 mg PO DAILY 

 
Discharge Medications:
1.  Fluocinonide 0.05% Cream 1 Appl TP BID  
2.  amLODIPine 10 mg PO DAILY  
3.  Escitalopram Oxalate 20 mg PO DAILY  
4. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication was 
held. Do not restart Hydrochlorothiazide until you discuss with 
your primary care doctor because of concern of possible drug 
reaction.
5.Outpatient Lab Work
ICD 10: D70.2
Lab Test: CBC with Differential (Please check on ___
Please fax results to Dr. ___ at ___.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses
=================
Drug reaction
Leukopenia/neutropenia
Thrombocytopenia
Acute kidney injury

Secondary Diagnoses
===================
Hypertension
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you in the hospital!

Why was I admitted to the hospital?
-You were admitted to ___ for rash and fever that was most 
likely a drug reaction to Bactrim

What happened while I was admitted to the hospital?
-You developed low platelets and low white blood cells, all part 
of the drug reaction to Bactrim, and we watched you until these 
improved
-Your lab numbers were closely monitored and you were continued 
on your home medications
-You did not show any signs of infection while here. We expect 
you to make a full recovery and advise that you avoid Bactrim 
and other sulfa drugs in the future. 

What should I do after I leave the hospital?
-Please continue taking all of your medications as prescribed, 
details below
-Keep all of your appointments as scheduled 
-We discharged you home to get your blood checked as an 
outpatient 
-It is also important, as we discussed, that you avoid all sick 
contacts as you do not have a sufficient immune system to fight 
off any infections for at least another day (as discussed you 
should stay with your parents for at least one day and ask any 
sick family members to wear masks)
-Do not take Bactrim again. Let all your doctors know that ___ 
had "agranulocytosis" and a drug rash from Bactrim
-Stop hydrochlorothiazide until your primary care doctor says to 
restart it
-If you cannot get in to see your primary care doctor, please go 
to a urgent care center and give them the lab prescription and 
your discharge paperwork that explains why your blood is being 
checked  

We wish you the very best! 

Your ___ Care Team
 
Followup Instructions:
___